### PR TITLE
feat(ErdosProblems): 884

### LINKED ISSUE #1001: Erdős Problem 884
### What is the conjecture

https://www.erdosproblems.com/884

  Is it true that, for any $n$, if $d_1<\cdots <d_t$ are the divisors of $n$, then
$$\sum_{1\leq i<j\leq t}\frac{1}{d_j-d_i} \ll 1+\sum_{1\leq i<t}\frac{1}{d_{i+1}-d_i},$$
where the implied constant is absolute?

Status:  open

### PR DESCRIPTION
**Pull request by kesslermaximilian**
Formalizes https://www.erdosproblems.com/884.
Closes #1001.

A few questions: I wasn't able to find mathlib functionality for the *ordered* list of divisors of a natural number, so I quickly wrote my own abbreviation.

Also, would it fit the project scope to also formalize the statement of Tao's paper, disproving this conjecture under assumption of hardy-littlewood? If so, there is currently only the general hardy-littlewood statement formalized in this repository, but Tao only requires a qualitative statement about existence, not density of admissable prime-tuples.

### CODE REVIEW

**Comment by kesslermaximilian** [comment]
Edit: I fixed the issue myself.

I'm trying to sign the CLA right now, which I did with some google-account now (meh...). However, in the troubleshooting explanation, I am confused by the line:
- You may not be using the email associated with your CLA in your Git commits. Check that the email set on your git commits matches the email associated with your CLA.
Does that mean that I have to make my git commits using a gmail-address? Do I need to somehow link the gmail with my github?
I'd appreciate some help in how I can resolve this, thanks in advance.

**Comment by mo271** [comment]
Seems like it works now? Do you still need help here? 
you can change the author of a commit later 
```
 git commit --amend --author="Your Name <your_name@gmail.com>" --no-edit
```

and then force push. 
To see what email address was used you can do `git log` or add `patch` to the github url for the commit:
https://github.com/google-deepmind/formal-conjectures/commit/30528027c6f71f889497b1f889607244284c48ed.patch

I think if you add multiple email addresses to your github account you can sign the CLA only with one of them and it should still work for the other ones?

**Comment by kesslermaximilian** [comment]
Yeah, regarding the CLA, things worked out now. But obviously, this PR still needs to be reviewed, etc.

File: FormalConjectures/ErdosProblems/884.lean [hunk 1]
```diff
@@ -0,0 +1,65 @@
...
+
+
+namespace Erdos884
+
+/--
+`divisors_increasing n` is the increasingly ordered list of divisors of `n`.
+By convention, we set `divisors_increasing 0 = ∅`.
+As a `Finset`, this is the same as `Nat.divisors`
+-/
+abbrev divisors_increasing (n : ℕ) : List ℕ := (List.range (n + 1)).filter (· ∣ n)
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/884.lean]: Instead of defining this, I would use `Nat.nth (· ∣ n) i` to pick out the `i`:th smallest divisor of `n` (to answer the question in the PR description).

Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/884.lean]: I agree with Calle on this one. Note that you could also define this as `n.divisors.sort`.

File: FormalConjectures/ErdosProblems/884.lean [hunk 2]
```diff
@@ -0,0 +1,65 @@
...
+In September 2025, Terence Tao gave a conditional _negative_ answer to this conjecture,
+disproving it under the assumption of the *Qualitative Hardy-Littlewood Conjecture*,
+See [here](https://terrytao.wordpress.com/wp-content/uploads/2025/09/erdos-884.pdf).
+However, the conjecture itself remains open.
+-/
+@[category research open, AMS 11]
+theorem erdos_884 :
+    sum_inv_of_divisor_pair_differences =O[Filter.atTop] (1 + sum_inv_of_divisor_pair_differences) := by
+  sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/884.lean:81]: To answer the question you asked in the PR description, I think it would be reasonable to add Tao's statement, if you have the appetite for that!

File: FormalConjectures/ErdosProblems/884.lean (hunk 1 above)
Comment (kesslermaximilian) [reply FormalConjectures/ErdosProblems/884.lean]: Thanks for the suggestion, I updated my code accordingly.

**Comment by kesslermaximilian** [comment]
Thanks for your comments / review. I updated the PR using your suggestions now.

File: FormalConjectures/ErdosProblems/884.lean (hunk 1 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/884.lean]: Thanks! Make sure to also delete the old `divisors_increasing`

File: FormalConjectures/ErdosProblems/884.lean [hunk 3]
```diff
@@ -0,0 +1,86 @@
...
+noncomputable abbrev sum_inv_of_consecutive_divisors (n : ℕ) : ℚ :=
+    ∑ i : Fin (n.divisors.card - 1),
+    (1 : ℚ) / (Nat.nth (· ∣ n) (i + 1) - Nat.nth (· ∣ n) i)
+
+/--
+Statement of Erdos conjecture 884. See `erdos_884` for the problem asking whether this is true.
+-/
+def erdos_884_stmt : Prop :=
+    sum_inv_of_divisor_pair_differences =O[Filter.atTop] (1 + sum_inv_of_divisor_pair_differences)
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/884.lean]: Shouldn't the RHS be `1 + sum_inv_of_consecutive_divisors`?

Comment (kesslermaximilian) [reply FormalConjectures/ErdosProblems/884.lean]: Oh yes, of course.
Thanks for catching that

Comment (kesslermaximilian) [reply FormalConjectures/ErdosProblems/884.lean]: I pushed a new commit fixing this

File: FormalConjectures/ErdosProblems/884.lean [hunk 4]
```diff
@@ -0,0 +1,86 @@
...
+For a natural number n, let `1 = d₁ < ⋯ < d_{τ(n)} = n` denote the divisors of n
+in increasing order.
+Does it hold that
+`∑ 1 ≤ i < j ≤ τ(n), 1 / (d_j - d_i) ⟪ 1 + ∑ 1 ≤ i < τ(n), 1 / (d_{i + 1} - d_i)`
+for `n → ∞`, i.e.
+`∑ 1 ≤ i < j ≤ τ(n), 1 / (d_j - d_i) ∈ O (1 + ∑ 1 ≤ i < τ(n), 1 / (d_{i + 1} - d_i))`?
+
+In September 2025, Terence Tao gave a conditional _negative_ answer to this conjecture,
+see `erdos_884_fales_of_hardy_littlewood` for this implication.
+However, the conjecture itself remains open.
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/884.lean]: We usually write our docstrings over erdos problems using latex. Could you also do this?

File: FormalConjectures/ErdosProblems/884.lean [hunk 5]
```diff
@@ -0,0 +1,86 @@
...
+    ∑ j : Fin n.divisors.card, ∑ i : Fin  j,
+    (1 : ℚ) / (Nat.nth (· ∣ n) j - Nat.nth (· ∣ n) i )
+
+noncomputable abbrev sum_inv_of_consecutive_divisors (n : ℕ) : ℚ :=
+    ∑ i : Fin (n.divisors.card - 1),
+    (1 : ℚ) / (Nat.nth (· ∣ n) (i + 1) - Nat.nth (· ∣ n) i)
+
+/--
+Statement of Erdos conjecture 884. See `erdos_884` for the problem asking whether this is true.
+-/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/884.lean:59]: Could you include the problem statement in this docstring as well (you can copy-paste from below if you wish).

File: FormalConjectures/ErdosProblems/884.lean [hunk 6]
```diff
@@ -0,0 +1,86 @@
...
+def erdos_884_stmt : Prop :=
+    sum_inv_of_divisor_pair_differences =O[Filter.atTop] (1 + sum_inv_of_consecutive_divisors)
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/884.lean]:
```suggestion
    sum_inv_of_divisor_pair_differences ≪ 1 + sum_inv_of_consecutive_divisors
```
We have this notation in `ForMathlib` (and I think you should be able to remove the parenthesis).

File: FormalConjectures/ErdosProblems/884.lean [hunk 7]
```diff
@@ -0,0 +1,86 @@
...
+
+
+namespace Erdos884
+
+/--
+`divisors_increasing n` is the increasingly ordered list of divisors of `n`.
+By convention, we set `divisors_increasing 0 = ∅`.
+As a `Finset`, this is the same as `Nat.divisors`
+-/
+abbrev divisors_increasing (n : ℕ) : List ℕ := (List.range (n + 1)).filter (· ∣ n)
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/884.lean]: Please remove this now that it is not used anymore.

**Review by callesonne — COMMENTED** [review]
Some more comments :)

File: FormalConjectures/ErdosProblems/884.lean (hunk 4 above)
Comment (kesslermaximilian) [reply FormalConjectures/ErdosProblems/884.lean]: yes, I did so now

File: FormalConjectures/ErdosProblems/884.lean (hunk 5 above)
Comment (kesslermaximilian) [reply FormalConjectures/ErdosProblems/884.lean:59]: done

File: FormalConjectures/ErdosProblems/884.lean (hunk 6 above)
Comment (kesslermaximilian) [reply FormalConjectures/ErdosProblems/884.lean]: thanks, I did not know this notation, I inserted it now

File: FormalConjectures/ErdosProblems/884.lean (hunk 7 above)
Comment (kesslermaximilian) [reply FormalConjectures/ErdosProblems/884.lean]: oh yes, done

**Comment by kesslermaximilian** [comment]
Hey. Sorry for the long period of inactivity. I responded to all the comments from the review now and updated the PR.
Thanks for your patience and the (continued) feedback

File: FormalConjectures/ErdosProblems/884.lean [hunk 8]
```diff
@@ -0,0 +1,92 @@
...
+The *qualitative* version of the conjecture only states that there are infinitely many tuples
+of primes and does not require any asymptotical bounds and as such is a corollary of the general
+form of the Hardy-Littlewood Conjecture.
+We state the 'weaker' implication using general Hardy-Littlewood here, since this conjecture is
+already formalized.
+-/
+@[category research solved, AMS 11]
+theorem erdos_884_false_of_hardy_littlewood :
+    ∀ (k : ℕ) (m : Fin k.succ → ℕ), HardyLittlewood.FirstHardyLittlewoodConjectureFor m
+    → ¬ erdos_884_stmt := by sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/884.lean]:
```suggestion
    → ¬ erdos_884_stmt := by
  sorry
```

File: FormalConjectures/ErdosProblems/884.lean [hunk 9]
```diff
@@ -0,0 +1,92 @@
...
+ \frac{1}{d_{i + 1} - d_i}$
+for $n \to \infty`, i.e.
+$\sum_{1 \le i < j \le \tau(n)} \frac{1}{d_j - d_i} \in O \left( 1 + \sum_{1 \le i < \tau(n)}
+ \frac{1}{d_{i + 1} - d_i}) \right)$?
+
+In September 2025, Terence Tao gave a conditional _negative_ answer to this conjecture,
+see `erdos_884_false_of_hardy_littlewood` for this implication.
+However, the conjecture itself remains open.
+-/
+def erdos_884_stmt : Prop :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/884.lean]: (to stick a little closer to this repo's convention!)
```suggestion
def Erdos884 : Prop :=
```

File: FormalConjectures/ErdosProblems/884.lean [hunk 10]
```diff
@@ -0,0 +1,92 @@
...
+*References:*
+- [erdosproblems.com/884](https://www.erdosproblems.com/884)
+- [Tao25](https://terrytao.wordpress.com/wp-content/uploads/2025/09/erdos-884.pdf)
+-/
+
+
+
+namespace Erdos884
+
+noncomputable abbrev sum_inv_of_divisor_pair_differences (n : ℕ) : ℚ :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/884.lean]: I'd suggest this name to sick a little closer to the Mathlib naming conventions
```suggestion
noncomputable abbrev sumDivisorInvPairwiseDifference (n : ℕ) : ℚ :=
```

File: FormalConjectures/ErdosProblems/884.lean [hunk 11]
```diff
@@ -0,0 +1,92 @@
...
+    ∑ j : Fin n.divisors.card, ∑ i : Fin  j,
+    (1 : ℚ) / (Nat.nth (· ∣ n) j - Nat.nth (· ∣ n) i )
+
+noncomputable abbrev sum_inv_of_consecutive_divisors (n : ℕ) : ℚ :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/884.lean]:
```suggestion
noncomputable abbrev sumDivisorInvConsecutiveDifference (n : ℕ) : ℚ :=
```

**Review by Paul-Lez — COMMENTED** [review]
A few minor nitpicks and then this should be ready to merge!

**Comment by kesslermaximilian** [comment]
Thanks, updated the PR according to your feedback.

**Comment by kesslermaximilian** [comment]
@Paul-Lez Not trying to rush you, just wanted to check in whether you saw that I updated the PR. I appreciate all your time and effort you put into this as well.

File: FormalConjectures/ErdosProblems/884.lean [hunk 12]
```diff
@@ -0,0 +1,93 @@
...
+$\sum_{1 \le i < j \le \tau(n)} \frac{1}{d_j - d_i} \in O \left( 1 + \sum_{1 \le i < \tau(n)}
+ \frac{1}{d_{i + 1} - d_i}) \right)$?
+
+In September 2025, Terence Tao gave a conditional _negative_ answer to this conjecture,
+see `erdos_884_false_of_hardy_littlewood` for this implication.
+However, the conjecture itself remains open.
+-/
+@[category research open, AMS 11]
+theorem erdos_884 :
+    Erdos884 ↔ answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/884.lean]:
```suggestion
    answer(sorry) ↔ Erdos884 := by
```

**Review by mo271 — APPROVED** [review]
LGTM, thanks! 
One more suggestions (since we changed the order of `answer(sorry)` in the meantime.

Please click "resolve converstation" for those comments that are addressed. This makes review much easier.

File: FormalConjectures/ErdosProblems/884.lean (hunk 9 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/884.lean]: @Paul-Lez but this gives a duplicated name space?

Comment (kesslermaximilian) [reply FormalConjectures/ErdosProblems/884.lean]: It does so, indeed. The thing is just that I want to separate the statement as just a definition, and then have both the conjecture and the conditional disproof by Tao as two statements.

File: FormalConjectures/ErdosProblems/884.lean (hunk 12 above)
Comment (kesslermaximilian) [reply FormalConjectures/ErdosProblems/884.lean]: Makes sense!

File: FormalConjectures/ErdosProblems/884.lean (hunk 9 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/884.lean]: Good point - perhaps `Erdos884Prop` in that case?

**Comment by Paul-Lez** [comment]
Sorry @kesslermaximilian I completely missed the notification on this!

**Comment by kesslermaximilian** [comment]
No problem. I just noticed that in main, the notation for asymptotics got changed to require functions (ℕ → ℝ), so I updated this PR accordingly.
If the build succeeds (it does locally for me), then we can merge, I suppose @Paul-Lez ?

File: FormalConjectures/ErdosProblems/884.lean [hunk 13]
```diff
@@ -0,0 +1,93 @@
...
+/-!
+# Erdős Problem 884
+
+*References:*
+- [erdosproblems.com/884](https://www.erdosproblems.com/884)
+- [Tao25](https://terrytao.wordpress.com/wp-content/uploads/2025/09/erdos-884.pdf)
+-/
+
+
+
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/884.lean]:
```suggestion

```

File: FormalConjectures/ErdosProblems/884.lean [hunk 14]
```diff
@@ -0,0 +1,93 @@
...
+namespace Erdos884
+
+noncomputable abbrev sumDivisorInvPairwiseDifference (n : ℕ) : ℝ :=
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/884.lean:34]: Could you please add a docstring for this `abbrev` and the one below?

File: FormalConjectures/ErdosProblems/884.lean [hunk 15]
```diff
@@ -0,0 +1,93 @@
...
+The *qualitative* version of the conjecture only states that there are infinitely many tuples
+of primes and does not require any asymptotical bounds and as such is a corollary of the general
+form of the Hardy-Littlewood Conjecture.
+We state the 'weaker' implication using general Hardy-Littlewood here, since this conjecture is
+already formalized.
+-/
+@[category research solved, AMS 11]
+theorem erdos_884_false_of_hardy_littlewood :
+    ∀ (k : ℕ) (m : Fin k.succ → ℕ), HardyLittlewood.FirstHardyLittlewoodConjectureFor m
+    → ¬ Erdos884 := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/884.lean]: nit: minor style things
```suggestion
      → ¬Erdos884 := by
```

File: FormalConjectures/ErdosProblems/884.lean [hunk 16]
```diff
@@ -0,0 +1,93 @@
...
+  sorry
+
+
+end Erdos884
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/884.lean:98]:
```suggestion

end Erdos884
```

**Review by smmercuri — APPROVED** [review]
Sorry for the delay in review! This looks good to me outside some minor style comments

**Review by Paul-Lez — APPROVED** [review]
